US08802690B2
Add 2N hydrochloric acid (8 mL) to a solution of 3,4-diamino-5-chlorobenzoate (from acid preparation 1, 435 mg, 2.17 mmol) in ethanol (20 mL). Heat the mixture to reflux then acid acetylacetone (437 mg, 4.37 mmol) to the yellow solution. The yellow solution turned purple upon addition. Stir at reflux for 1 hour and the solution turned back to yellow. Stir at reflux for an additional 1 hour. Concentrate the solvent to a colorless residue. Add water (20 mL). Extract the suspension with ethyl acetate (20 mL). Basify the aqueous layer with 2N sodium hydroxide (˜8 mL) to pH-10. Extract with ethyl acetate (3×15 mL). Wash combined organics from the basic extraction with brine (5 mL). Dry over magnesium sulfate, to filter, concentrate, and dry under high vacuum to yield methyl 7-chloro-2-methyl-1H-benzo[d]imidazole-5-carboxylate (290 mg, 59%) as a colorless solid. 1H NMR (400 MHz, CDCl3) δ ppm 2.68 (s, 3H), 3.93 (s, 3H), 7.25 (s, 1H), 7.96 (s, 1H).

reactant | hydrochloric acid | 2N, 8 mL | Cl | ClH
reactant | 3,4-diamino-5-chlorobenzoate | 2.17 mmol, 435 mg | NC=1C=C(C(=O)[O-])C=C(C1N)Cl
reactant | acetylacetone | 4.37 mmol, 437 mg | C(C)(=O)CC(C)=O | C5H8O2
reactant | ethanol | 20 mL | C(C)O | C2H6O
product | methyl 7-chloro-2-methyl-1H-benzo[d]imidazole-5-carboxylate | 290 mg, 59% | ClC1=CC(=CC2=C1NC(=N2)C)C(=O)OC | C10H9ClN2O2
